US07183445B2
To a solution of 3-ethyl-4-methyl-2-(4-phenoxy-phenyl)-5-trimethylsilanyloxymethyl-cyclohexanone (1.8 g, 3.8 mmol) in THF (10 mL) at −10° C. was added Grinard reagent (1.0 M, 7.5 mL). The reaction mixture was stirred at 25° C. for 1 h and then refluxed for 30 min. The reaction mixture was then cooled and diluted with aqueous saturated NH4Cl (100 mL) and ethyl acetate (100 mL). The organic layer was separated, dried over MgSO4 and purified on SiO2 (100% ethyl acetate) to yield crude product 3-ethyl-1-(4-methoxy-phenyl)-4-methyl-2-(4-phenoxy-phenyl)-5-trimethylsilanyloxymethyl-cyclohexanol. NMR showed S: R product ratio or 2:1. Further purification provide pure 3-ethyl-1-(4-methoxy-phenyl)-4-methyl-2-(4-phenoxy-phenyl)-5-trimethylsilanyloxymethyl-cyclohexanol.

reactant | 3-ethyl-4-methyl-2-(4-phenoxy-phenyl)-5-trimethylsilanyloxymethyl-cyclohexanone | 3.8 mmol, 1.8 g | C(C)C1C(C(CC(C1C)CO[Si](C)(C)C)=O)C1=CC=C(C=C1)OC1=CC=CC=C1 | C25H34O3Si
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 3-ethyl-1-(4-methoxy-phenyl)-4-methyl-2-(4-phenoxy-phenyl)-5-trimethylsilanyloxymethyl-cyclohexanol | C(C)C1C(C(CC(C1C)CO[Si](C)(C)C)(O)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC1=CC=CC=C1 | C32H42O4Si
